US08791102B2
Proceeding as in Reference 11, but substituting 2-(1H-1,2,4-triazol-1-yl)acetic acid and (2S,4R)-tert-butyl 2-(4-(4-fluorophenoxy)phenylcarbamoyl)-4-hydroxypyrrolidine-1-carboxylate, gave (2S,4R)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-N-(4-(4-fluorophenoxy)phenyl)-4-hydroxypyrrolidine-2-carboxamide.

reactant | 2-(1H-1,2,4-triazol-1-yl)acetic acid | N1(N=CN=C1)CC(=O)O | C4H5N3O2
reactant | (2S,4R)-tert-butyl 2-(4-(4-fluorophenoxy)phenylcarbamoyl)-4-hydroxypyrrolidine-1-carboxylate | FC1=CC=C(OC2=CC=C(C=C2)NC(=O)[C@H]2N(C[C@@H](C2)O)C(=O)OC(C)(C)C)C=C1 | C22H25FN2O5
product | (2S,4R)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-N-(4-(4-fluorophenoxy)phenyl)-4-hydroxypyrrolidine-2-carboxamide | N1(N=CN=C1)CC(=O)N1[C@@H](C[C@H](C1)O)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C21H20FN5O4
